US07728010B2
Step 2. Synthesis of 4-(4-Methylamino-3-nitro-phenoxy)-pyridine-2-carboxylic acid (2-hydroxy-ethyl)-amide
To a suspension of the 4-(4-methylamino-3-nitro-phenoxy)-pyridine-2-carboxylic acid (1 eq) in dry THF, EDC-HCl (1.2 eq), HOAT (1.2 eq), and diisopropylethylamine (3 eq) were added. The suspension was stirred for 10 minutes whereupon 2,2-dimethyl-oxazolidine (1.1 eq) was added and the solution is allowed to stir overnight. The mixture was then diluted with ethyl acetate and washed with water. The aqueous layer was washed with ethyl acetate, the organic layers combined, dried over MgSO4, filtered, and concentrated. LCMS m/z 333.2 (MH+), tR=2.1 min.

reactant | 4-(4-methylamino-3-nitro-phenoxy)-pyridine-2-carboxylic acid | 1 eq | CNC1=C(C=C(OC2=CC(=NC=C2)C(=O)O)C=C1)[N+](=O)[O-] | C13H11N3O5
reactant | EDC-HCl | 1.2 eq | CCN=C=NCCCN(C)C.Cl
reactant | HOAT | 1.2 eq | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | diisopropylethylamine | 3 eq | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2,2-dimethyl-oxazolidine | 1.1 eq | CC1(OCCN1)C | C5H11NO
solvent | THF | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(4-Methylamino-3-nitro-phenoxy)-pyridine-2-carboxylic acid (2-hydroxy-ethyl)-amide | OCCNC(=O)C1=NC=CC(=C1)OC1=CC(=C(C=C1)NC)[N+](=O)[O-] | C15H16N4O5
